US07138425B2
b) N-(2-Hydroxy-5-bromophenyl)-3-nitro-4-methoxybenzamide
A solution of 4-methoxy-3-nitro-benzoyl chloride (7.12 g, 33.0 mmol) in THF (50 ml) was added dropwise with stirring to a solution of 4-bromo-2-aminophenol (6.20 g, 33.0 mmol) in THF (50 ml) containing triethylamine (6.82 ml, 66.0 mmol). After addition was complete the reaction was stirred at room temperature overnight. The reaction mixture was concentrated to approximately half the original volume and the precipitate collected by filtration. The solid was washed with methanol and ether and dried under vacuum to give the subtitle compound as a brown solid (5.24 g, 42%). 1H NMR (DMSO) δ 8.58(d, 1H), 8.36(dd, 1H), 7.55(d, 1H), 6.96(m, 2H), 6.68(dd, 1H), 4.05(s, 3H).

reactant | 4-methoxy-3-nitro-benzoyl chloride | 33.0 mmol, 7.12 g | COC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | 4-bromo-2-aminophenol | 33.0 mmol, 6.20 g | BrC1=CC(=C(C=C1)O)N | C6H6BrNO
reactant | triethylamine | 66.0 mmol, 6.82 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(2-Hydroxy-5-bromophenyl)-3-nitro-4-methoxybenzamide | 5.24 g, 42% | OC1=C(C=C(C=C1)Br)NC(C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C14H11BrN2O5
